US08455483B2
b) Ethyl 2-cyclopentyl-4,5-dihydrothiazole-4-carboxylate
Tosic acid monohydrate (0.78 g) was added to a solution of ethyl 2-(cyclopentanecarboxamido)-3-mercaptopropanoate [Carboxylic Acid 2, step a] (5 g) in toluene (40 mL). The resulting mixture was heated at reflux under Dean and Stark conditions for 6 h. The reaction was allowed to cool, then the toluene solution was washed with saturated sodium bicarbonate solution (20 mL) and the solvent evaporated. The residue was azeotroped with toluene. The resulting white solid was purified by silica gel chromatography eluting with 9:1 isohexane:ethyl acetate. The fractions containing the product were combined and evaporated to give the subtitled compound as a clear oil. Yield 3.2 g.

reactant | ethyl 2-(cyclopentanecarboxamido)-3-mercaptopropanoate | C1(CCCC1)C(=O)NC(C(=O)OCC)CS | C11H19NO3S
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-cyclopentyl-4,5-dihydrothiazole-4-carboxylate | C1(CCCC1)C=1SCC(N1)C(=O)OCC | C11H17NO2S
